datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC/C=C/Cc1n(C(C(=O)[O-])C(C)(C)S)cc(C(=O)[O-])[n+:21]1[H:20].CCSCC[NH2:10]>>CC/C=C/Cc1n(C(C(=O)[O-])C(C)(C)S)cc(C(=O)[O-])[n:21]1.CCSCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[Se-]CC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Se-]CC[NH2+:10][H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc(-c2cccc([O-:10])c2)cc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc(-c2cccc([O:10][H:20])c2)cc1 10=20;20,21=21",
"CC[NH+](CC)CC(C)Nc1c2cc(OC)ccc2[n+:21]([H:20])c2cc(Cl)ccc12.NC(=O)c1cc(-c2ccccc2)n[n:10]c1NCC[NH+]1CCOCC1>>CC[NH+](CC)CC(C)Nc1c2cc(OC)ccc2[n:21]c2cc(Cl)ccc12.NC(=O)c1cc(-c2ccccc2)n[n+:10]([H:20])c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"CCC(O)C[N:10](C)CC(C)O.COc1ccc([O:21][H:20])c(C)c1>>CCC(O)C[N+:10](C)(CC(C)O)[H:20].COc1ccc([O-:21])c(C)c1 10=20;20,21=21",
"CC(O)c1cccc([O:21][H:20])c1CO.CCCSC(=O)CCCc1c[nH]c[n:10]1>>CC(O)c1cccc([O-:21])c1CO.CCCSC(=O)CCCc1c[nH]c[n+:10]1[H:20] 10=20;20,21=21",
"Cc1cc(-c2ccccc2)n[n+](CC[N+:21]2([H:20])CCOCC2)c1N.Nc1nc2nc[nH]c2c([S-])[n:10]1>>Cc1cc(-c2ccccc2)n[n+](CC[N:21]2CCOCC2)c1N.Nc1nc2nc[nH]c2c([S-])[n+:10]1[H:20] 10=20;20,21=21",
"C[N:10]1CCCC1c1cccnc1.O=C([O-])/C(=N\[O:21][H:20])c1ccccc1>>C[N+:10]1([H:20])CCCC1c1cccnc1.O=C([O-])/C(=N\[O-:21])c1ccccc1 10=20;20,21=21",
"CCP(=S)(CC)C(=S)N[NH2:10].CSc1cc[n+:21]([H:20])cc1>>CCP(=S)(CC)C(=S)N[NH2+:10][H:20].CSc1cc[n:21]cc1 10=20;20,21=21",
"Nc1c(O)cccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Nc1c(O)cccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1[nH]c[n:10]c1C.Nc1ccccc1[O:21][H:20]>>Cc1[nH]c[n+:10]([H:20])c1C.Nc1ccccc1[O-:21] 10=20;20,21=21",
"CC(=O)Nc1cc[n:10]cc1.CNC(=O)CS(=O)(=O)[N:21](C(N)=O)[H:20]>>CC(=O)Nc1cc[n+:10]([H:20])cc1.CNC(=O)CS(=O)(=O)[N-:21]C(N)=O 10=20;20,21=21",
"O=C([O-])CCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C([O-])CCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C=CC(C)(C)[N:10](C)C(C)(C)C.Cc1n(C)c2c(O)ccc(O)c2[n+:21]1[H:20]>>C=CC(C)(C)[N+:10](C)(C(C)(C)C)[H:20].Cc1n(C)c2c(O)ccc(O)c2[n:21]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCC[NH2+:10][H:20] 10=20;20,21=21",
"C[N+](C)(C)c1ccccc1[O-:10].C[NH+](C)CCCCCNC(=O)/C=N/[O:21][H:20]>>C[N+](C)(C)c1ccccc1[O:10][H:20].C[NH+](C)CCCCCNC(=O)/C=N/[O-:21] 10=20;20,21=21",
"CCc1ccc(C(=O)/C=C/C(=O)[O:21][H:20])cc1.Cc1cc(N)c2ccccc2[n:10]1>>CCc1ccc(C(=O)/C=C/C(=O)[O-:21])cc1.Cc1cc(N)c2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"C[N+:21]1([H:20])CCc2cccc(c2)CCc2ccc1cc2.Nc1cc[nH+]c2c1ncn2CCOCP(=O)([O-])[O-:10]>>C[N:21]1CCc2cccc(c2)CCc2ccc1cc2.Nc1cc[nH+]c2c1ncn2CCOCP(=O)([O-])[O:10][H:20] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1[nH]c2cccnc2[n:10]1.c1ccc2c(c1)ccc1ccc[n+:21]([H:20])c12>>COc1cc(S(C)=O)ccc1-c1[nH]c2cccnc2[n+:10]1[H:20].c1ccc2c(c1)ccc1ccc[n:21]c12 10=20;20,21=21",
"CCC(=O)O[O:21][H:20].CCCCCC[N:10](CCO)CC(O)CC>>CCC(=O)O[O-:21].CCCCCC[N+:10](CCO)(CC(O)CC)[H:20] 10=20;20,21=21",
"CCN(CC)CCC[N:10](CC)CC.CC[N+:21](CC)(CCNc1cc(C)nc(Nc2ccc(Cl)cc2)n1)[H:20]>>CCN(CC)CCC[N+:10](CC)(CC)[H:20].CC[N:21](CC)CCNc1cc(C)nc(Nc2ccc(Cl)cc2)n1 10=20;20,21=21",
"C[C@@H]([C@H](O)c1ccccc1)[NH:10]C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C[C@@H]([C@H](O)c1ccccc1)[NH+:10](C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CCOc1ccc2[nH]c(CC(C)C)[n:10]c2c1.O=S(=O)(C(F)(F)F)[N:21](c1cccc(C(F)(F)F)c1)[H:20]>>CCOc1ccc2[nH]c(CC(C)C)[n+:10]([H:20])c2c1.O=S(=O)(C(F)(F)F)[N-:21]c1cccc(C(F)(F)F)c1 10=20;20,21=21",
"COc1ccc(-c2cn3cc[n+:21]([H:20])c3[nH]2)c(OC)c1.O=S(=O)(Nc1cnccn1)c1ccc([NH2:10])cc1>>COc1ccc(-c2cn3cc[n:21]c3[nH]2)c(OC)c1.O=S(=O)(Nc1cnccn1)c1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"O=C(N/N=C/c1ccccc1[O-:10])c1ccncc1.Oc1ccccc1CN1CCC[NH2+]CCC[NH+:21]([H:20])CCC1>>O=C(N/N=C/c1ccccc1[O:10][H:20])c1ccncc1.Oc1ccccc1CN1CCC[NH2+]CCC[NH:21]CCC1 10=20;20,21=21",
"CN(CC[NH+](C)C)CC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CN(CC[NH+](C)C)CC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CCC1(CC)OC(=O)[N-:10]C1=O.NC(=O)CCCCc1ccc[n+:21]([H:20])c1>>CCC1(CC)OC(=O)[N:10]([H:20])C1=O.NC(=O)CCCCc1ccc[n:21]c1 10=20;20,21=21",
"C[N:10]1CC[C@]23c4c5ccc(OCc6ccccc6)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5.O=S1(=O)N=C[N:21]([H:20])c2ccncc21>>C[N+:10]1([H:20])CC[C@]23c4c5ccc(OCc6ccccc6)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5.O=S1(=O)N=C[N-:21]c2ccncc21 10=20;20,21=21",
"C[N:10](C)c1ccc(Br)cc1.c1n[nH]cc1[NH2+:21][H:20]>>C[N+:10](C)(c1ccc(Br)cc1)[H:20].c1n[nH]cc1[NH2:21] 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])=C1.[O-][N+]([O-])=C(CO)C[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)=C1.[O-][N+]([O-])=C(CO)C[O:10][H:20] 10=20;20,21=21",
"CCCCC(=O)[O-:10].c1ccc2c(c1)ccc1ccc[n+:21]([H:20])c12>>CCCCC(=O)[O:10][H:20].c1ccc2c(c1)ccc1ccc[n:21]c12 10=20;20,21=21",
